US04144333
Methyl (cis-3-Phenoxyacetamido-2-iodomethyl-4-oxo-1-azetidinyl)hydroxyacetate
A solution of 0.360 g (1.0 mmol) of cis-3-phenoxyacetamido-4-oxo-2-azetidinylmethyl iodide, 0.440 g (5.0 mmol) of methyl glyoxylate, and 246 μl (2.0 mmol) of boron trifluoride etherate in 10 ml of anhydrous tetrahydrofuran is stirred at ambient temperature under an argon atmosphere for 5 hours. At this time 123 μl (1.0 mmol) of boron trifluoride etherate is added and the mixture is stirred for an additional 2 hours. The tetrahydrofuran is removed in vacuo and the residue is taken up in ethyl acetate and extracted with aqueous NaHCO3 and brine. The ethyl acetate solution is dried, filtered and evaporated to give 0.350 g of crude product which is purified by preparative thin-layer chromatography (silica gel GF); 0.174 g of pure product.

reactant | cis-3-phenoxyacetamido-4-oxo-2-azetidinylmethyl iodide | 1.0 mmol, 0.360 g | O(C1=CC=CC=C1)CC(=O)N[C@@H]1[C@@H](NC1=O)CI | C12H13IN2O3
reactant | methyl glyoxylate | 5.0 mmol, 0.440 g | C(C=O)(=O)OC | C3H4O3
reactant | boron trifluoride etherate | 2.0 mmol, 246 μl | B(F)(F)F.CCOCC
reactant | boron trifluoride etherate | 1.0 mmol, 123 μl | B(F)(F)F.CCOCC
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | Methyl (cis-3-Phenoxyacetamido-2-iodomethyl-4-oxo-1-azetidinyl)hydroxyacetate | 0.350 g | O(C1=CC=CC=C1)CC(=O)N[C@@H]1[C@@H](N(C1=O)C(C(=O)OC)O)CI | C15H17IN2O6
